US05780393
Chlorocarbonyl sulfenyl chloride (11.24 g, 86 mmol) is added dropwise to a stirred suspension of 2-fluorobenzamide (10.80 g, 78 mmol) in dry toluene. The mixture is heated gradually over a period of 30 minutes to a temperature of about 80° C. (a clear solution is formed with evolution of gas), stirred for approximately 1 h at 80° C., heated to about 98° C., stirred at 98° C. for 5 h, and distilled to remove the toluene and excess chlorocarbonyl sulfenyl chloride. The resultant pot residue is redissolved in toluene, washed sequentially with water, 5% sodium bicarbonate and water, dried over anhydrous magnesium sulfate and concentrated in vacuo to give a residue. This residue is recrystallized from petroleum ether to give 5-(2-fluorophenyl)[1,3,4]oxathiazolin-2-one (13.2 g, 86%) as off-white crystals, mp 50° C.

reactant | Chlorocarbonyl sulfenyl chloride | 86 mmol, 11.24 g | ClC(=O)SCl | CCl2OS
reactant | 2-fluorobenzamide | 78 mmol, 10.80 g | FC1=C(C(=O)N)C=CC=C1 | C7H6FNO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 5-(2-fluorophenyl)[1,3,4]oxathiazolin-2-one | 13.2 g, 86% | FC1=C(C=CC=C1)C1=NSC(O1)=O | C8H4FNO2S
